US08471031B2
bis(1-Octyloxy-2,2,6,6-tetramethyl-4-piperidyl) sebacate, compound 109
10.0 g Bis(1-oxyl-2,2,6,6-tetramethylpiperidin-4-yl) sebacate (Prostab 5415, commercial product of Ciba Specialty Chemicals Inc.) are dissolved in 50 ml toluene/acetic acid (1:1) and 2.5 g calcium chloride are added. 10 ml 50% aqueous hydrogen peroxide are added, followed by 20 ml nonanal and 0.2 g CuCl2. The reaction mixture is stirred for 1 h at room temperature and afterwards for 10 h at 40° C. The mixture is pure into 100 ml 0.1 N NaOH and subsequently extracted with methylene chloride. The organic phase is washed twice with water and then with sat. sodium chloride solution and dried over sodium sulfate. The organic phase is removed in vacuo and the residue subjected to column chromatography on silica gel to afford 5.5 g of product.

reactant | Bis(1-oxyl-2,2,6,6-tetramethylpiperidin-4-yl) sebacate | 10.0 g | C(CCCCCCCCC(=O)OC1CC(N(C(C1)(C)C)O)(C)C)(=O)OC1CC(N(C(C1)(C)C)O)(C)C | C28H52N2O6
reactant | calcium chloride | 2.5 g | [Cl-].[Ca+2].[Cl-]
reactant | hydrogen peroxide | 10 ml | OO | H2O2
reactant | nonanal | 20 ml | C(CCCCCCCC)=O | C9H18O
reactant | NaOH | 0.1 N, 100 ml | [OH-].[Na+]
solvent | toluene acetic acid | 50 ml | C1(=CC=CC=C1)C.C(C)(=O)O
product | bis(1-Octyloxy-2,2,6,6-tetramethyl-4-piperidyl) sebacate | 5.5 g | C(CCCCCCCCC(=O)OC1CC(N(C(C1)(C)C)OCCCCCCCC)(C)C)(=O)OC1CC(N(C(C1)(C)C)OCCCCCCCC)(C)C | C44H84N2O6
